.include AND2IN.sub

.subckt AND3IN node_out node_a node_b node_c vdd gnd
    X1 node_x node_a node_b vdd gnd AND2IN
    X2 node_out node_x node_c vdd gnd AND2IN
.ends AND3IN